US08053439B2
In the same manner as in the synthesis of Compound 515, 1,2,4-triazole was added to Compound 21 of Reaction 6. Then, tributyl(1-ethoxyvinyl)tin was added to the mixture, and the resulting mixture was reacted to obtain (4-(1-ethoxyvinyl)-2-(1H-1,2,4-triazol-1-yl)phenyl)(3,4,5-trimethoxyphenyl)methanone. Thus obtained (4-(1-ethoxyvinyl)-2-(1H-1,2,4-triazol-1-yl)phenyl)(3,4,5-trimethoxyphenyl)methanone was dissolved in a mixed solution of tetrahydrofuran and water (1/1), and N-bromosuccinimide (NBS) was added thereto. The mixture was stirred for 3 hours at room temperature. After completion of the reaction, the reaction mixture was extracted with EtOAc. The organic layer was washed with a saturated aqueous Na2 SO3 solution, water, and brine. The extracted organic layer was dried over anhydrous MgSO4, and the solid substance was filtered off. The filtrate was vacuum evaporated to remove the solvent. The resulting residue was purified by column chromatography (SiO2, n-Hex/EA=3/1→1/2) to obtain 1-(3-(1H-1,2,4-triazol-1-yl)-4-(3,4,5-trimethoxybenzoyl)phenyl)-2-bromoethanone. Thus obtained 1-(3-(1H-1,2,4-triazol-1-yl)-4-(3,4,5-trimethoxybenzoyl)phenyl)-2-bromoethanone (65 mg, 0.14 mmol) was dissolved in 3 ml of 95% ethanol, and thiourea (16 mg) was added thereto. The mixture was refluxed for 2 hours. After completion of the reaction, the reaction mixture was cooled to room temperature, and vacuum evaporated to remove the solvent. The resulting residue was purified by column chromatography (SiO2, CH2Cl2/MeOH=30/1→10/1) to obtain Compound 516 (29.3 mg, 48%).

reactant | (4-(1-ethoxyvinyl)-2-(1H-1,2,4-triazol-1-yl)phenyl)(3,4,5-trimethoxyphenyl)methanone | C(C)OC(=C)C1=CC(=C(C=C1)C(=O)C1=CC(=C(C(=C1)OC)OC)OC)N1N=CN=C1 | C22H23N3O5
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-(3-(1H-1,2,4-triazol-1-yl)-4-(3,4,5-trimethoxybenzoyl)phenyl)-2-bromoethanone | N1(N=CN=C1)C=1C=C(C=CC1C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C(CBr)=O | C20H18BrN3O5
